reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]([N:4]([H:11])[H:13])([N:5]=[C:6]=[O:7])[H:12])([H:8])([H:9])[H:10],112.445343848812
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([O:5][H:9])[H:13])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],73.25147985859101
[C:1]([C:2]([O:3][C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[O:3][C@@:4]1([O:5][H:8])[N:6]([H:12])[H:13],85.3736495881504
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]1\[N:3]=[N:4][C@:6]2([H:9])[O:5][C@:7]12[H:10])\[H:8],107.100131684062
[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([O:2][C-:3]=[N+:4]=[C:5]([H:11])[H:12])([H:6])([H:7])[H:8].[H:9][H:10],80.32006600427451
[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]([O+:6]=[C-:5][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],115.215687432648
[C:1]([O+:2]=[C-:3][H:10])([H:7])([H:8])[H:9].[C:4]([C:5](=[O:6])[H:14])([H:11])([H:12])[H:13]>>[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],18.532882387209504
[H:9][H:11].[O:1]([C:2]([C:3](=[C:4]=[O:5])[H:10])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8])[H:6],51.058918381169704
[C:1](#[C:2][C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:1](=[C:2]1[C:3]([H:8])([H:9])[C@@:4]1([C:5]#[C:6][H:12])[H:11])([H:7])[H:10],89.2566573467996
[C:1]([O:2][C:3]([C+:4]([N:5]([O-:6])[H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],41.7549867632431
[N:1](=[C:2](/[O:6][C:5]([C:4](=[C:3]([H:8])[H:9])[H:11])([H:12])[H:13])[H:10])\[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[O:6]1)\[H:7],85.3148442991274
[C:1]([C:2](=[C:3]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]=[N:6][H:11])([H:14])[H:15]>>[C:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],26.866961110415197
[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C:4])[C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],51.4514691462105
[N:1]([C:2]1([N+:6]#[C-:5])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8]>>[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8],36.94056599493099
[O:1]=[C:2]([C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C@:2]1([H:7])[C:3]([H:8])([H:9])[C:4]([H:11])=[C:5]=[C:6]1[H:12])[H:10],85.2653597937158
[O:1](/[C:5](=[C:4]1\[C:2]([H:9])([H:10])[C@@:3]1([C:6]#[N:7])[H:11])[H:12])[H:8]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],83.03968627324734
[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:4](=[C:3]=[C:2]([H:10])[H:11])[C:5]([O:6][H:14])([H:12])[H:13])([H:7])([H:8])[H:9],94.20215487649028
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:4](=[C:3]([H:12])[H:13])[H:14])([C:7](=[C:6]=[C:5]([H:15])[H:16])[H:17])[H:11])([H:8])([H:9])[H:10],78.43525163692591
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]#[N:6])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[N:6]=[C:5]=[C:4]([H:13])[H:14])([H:7])([H:8])[H:9],99.81624767795219
[C:1]([O+:2]=[C-:3][O:4][C@:6]1([H:13])[C:5]([H:11])([H:12])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],35.82610233817741
[C:1]([n:2]1[c:3]([H:10])[n:4][n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1]([C:3]1([H:10])[N:2]=[N:6][N:5]=[N:4]1)([H:7])([H:8])[H:9],68.01946736317389
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:6]#[C:7][H:14])[H:11])([H:8])[H:9].[C:3](=[C:4]=[N:5][H:10])([H:12])[H:13],66.43608884514049
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:6]([O:5][C:4](=[C:3]([H:12])[H:13])[H:14])=[N:7]1)([H:8])([H:9])[H:10],92.10318234215981
[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C:2](=[C:5]=[N:6][C:3]([O:4][H:12])([H:10])[H:11])[H:9])([H:7])[H:8],84.9030377080475
[C:1](=[O:2])([H:6])[H:8].[C:3](=[C:4]([O:5][H:7])[H:11])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],51.34040256028884
[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4](=[C:5]=[N:6][H:13])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],89.7351070204796
